US04035495
In the same manner but replacing N-(2-hydroxyphenyl)-pyrrole with an equivalent amount of N-(5-chloro-2-hydroxyphenyl)-pyrrole, 8-chloro-4-methyl-4H-pyrrolo[2,1-c][1,4]benzoxazine-4-carboxylic acid, m.p. 153° - 154° C (dec), νmaxCHCl3 1,725, 1,510, 1,330cm-1, is obtained via the intermediate ester, 8-chloro-4-methyl-4H-pyrrolo-[2,1-c][1,4]benzoxazine-4-carboxylic acid ethyl ester, νmaxCHCl3 1,735 cm-1.

reactant | N-(2-hydroxyphenyl)-pyrrole | OC1=C(C=CC=C1)N1C=CC=C1 | C10H9NO
reactant | N-(5-chloro-2-hydroxyphenyl)-pyrrole | ClC=1C=CC(=C(C1)N1C=CC=C1)O | C10H8ClNO
reactant | 8-chloro-4-methyl-4H-pyrrolo[2,1-c][1,4]benzoxazine-4-carboxylic acid | ClC=1C=CC2=C(N3C(C(O2)(C(=O)O)C)=CC=C3)C1 | C13H10ClNO3
product | 8-chloro-4-methyl-4H-pyrrolo-[2,1-c][1,4]benzoxazine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC2=C(N3C1=CC=C3)C=C(C=C2)Cl)C | C15H14ClNO3
